US09238640B2
Preparation of 2-(2,6-Dimethylpyridin-4-yl)-7-methoxy-5-(2-phenoxyethoxy)quinazolin-4(3H)-one
To a suspension of 2-(2,6-dimethylpyridin-4-yl)-7-fluoro-5-(2-phenoxyethoxy)-3H-quinazolin-4-one (0.59 g, 1.45 mmol) in DMF (10 mL) was added a solution of sodium methoxide in methanol (25 wt %, 3.15 g, 14.5 mmol) and the reaction mixture was stirred at approximately 70-80° C. for 48 hours, then cooled to room temperature. Water (1 mL) was added, the mixture was neutralized to pH approximately 6-7 with acetic acid, concentrated, dissolved in DCM, washed with water and brine, dried over anhydrous sodium sulfate, concentrated in vacuo, and the residue was passed through a column (eluted with 2% methanol in DCM), to give 0.12 g of the desired product. The crude product was washed with acetonitrile, then solubilized in dioxane, and precipitated by adding water to afford the title compound as a white solid. Yield: 70 mg (11%). 1H NMR (400 MHz, DMSO-d6): δ 12.08 (br s, 1H), 7.77 (s, 2H), 7.31 (t, J=7.81 Hz, 2H), 7.04 (d, J=8.20 Hz, 2H), 6.96 (t, J=7.42 Hz, 1H), 6.83 (d, J=1.56 Hz, 1H), 6.69 (s, 1H), 4.40-4.53 (m, 2H), 3.90 (s, 3H), 3.33 (s, 6H). MS (ES+) m/z: 418.14 (M+1)+; MP 172.3-173.2° C.

reactant | 2-(2,6-dimethylpyridin-4-yl)-7-fluoro-5-(2-phenoxyethoxy)-3H-quinazolin-4-one | 1.45 mmol, 0.59 g | CC1=NC(=CC(=C1)C1=NC2=CC(=CC(=C2C(N1)=O)OCCOC1=CC=CC=C1)F)C | C23H20FN3O3
reactant | sodium methoxide | C[O-].[Na+]
reactant | methanol | 14.5 mmol, 3.15 g | CO | CH4O
reactant | Water | 1 mL | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-(2,6-Dimethylpyridin-4-yl)-7-methoxy-5-(2-phenoxyethoxy)quinazolin-4(3H)-one | 0.12 g | CC1=NC(=CC(=C1)C1=NC2=CC(=CC(=C2C(N1)=O)OCCOC1=CC=CC=C1)OC)C | C24H23N3O4
